US04938790
Preparation of 3-Chloro-2-methoxymethoxy-2'-methoxymethoxybenzophenone.
A solution of 16.0 ml of oxalyl chloride in 500 ml of dichloromethane was placed in a 1 l flask and cooled with a dry ice-acetone bath. Dimethyl sulfoxide (14.0 ml) was added dropwise with stirring over a 10 min period. After a 40 min reaction period, a solution of 51.0 g of (3-chloro-2-methoxymethoxyphenyl)(2-methoxymethoxyphenyl)methanol in 120 ml of dichloromethane was added dropwise over a 45 min period with stirring at about -78° C. and allowed to react another 45 min. An orange suspension formed. Triethylamine (50 ml) was added and the slurry was swirled occasionally and was allowed to warm to room temperature. The slurry was diluted with 1 l of ether and the resulting mixture was extracted with 3-300 ml portions of water, 300 ml of 2 percent hydrochloric acid, and 200 ml of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 50.5 g of the title compound as a viscous pale orange-tinted oil. The proton and carbon NMR spectra were consistent with the assigned structure.

reactant | oxalyl chloride | 16.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl sulfoxide | 14.0 ml | CS(=O)C | C2H6OS
reactant | (3-chloro-2-methoxymethoxyphenyl)(2-methoxymethoxyphenyl)methanol | 51.0 g | ClC=1C(=C(C=CC1)C(O)C1=C(C=CC=C1)OCOC)OCOC | C17H19ClO5
reactant | Triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | ether | 1 l | CCOCC | C4H10O
product | 3-Chloro-2-methoxymethoxy-2'-methoxymethoxybenzophenone | 50.5 g | ClC=1C(=C(C(=O)C2=C(C=CC=C2)OCOC)C=CC1)OCOC | C17H17ClO5
